US05412137
(R)-3-Carboxy-N,N,N-trimethyl-2-[[hydroxy{8-[(4-trifluoromethoxy)phenoxy]octyloxy}phosphinyl]oxy]-1-propanaminium Hydroxide, Inner Salt
A mixture of 5.0 g of 4-(trifluoromethoxy)phenol, 5.87 g of 8-bromo-1-octanol, and 7.76 g of K2CO3 in 56 ml of anhydrous dimethylformamide is stirred and heated at 80° C. for 16 hours. The reaction mixture is poured into dilute HCl solution and the mixture is extracted three times with ethyl acetate. The combined extracts are washed with brine and dried over MgSO4. After filtration and concentration, the crude product is purified by flash chromatography on silica gel, eluting with a 4:1 hexane/ethyl acetate mixture to give the title compound 8-(4-(trifluoromethoxy)-phenoxy)-1-octanol.

reactant | 4-(trifluoromethoxy)phenol | 5.0 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | 8-bromo-1-octanol | 5.87 g | BrCCCCCCCCO | C8H17BrO
reactant | K2CO3 | 7.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 56 ml | CN(C=O)C | C3H7NO
product | 8-(4-(trifluoromethoxy)-phenoxy)-1-octanol | FC(OC1=CC=C(OCCCCCCCCO)C=C1)(F)F | C15H21F3O3
